US07576217B2
[(6-Bromo-2-methyl-4-phenyl-quinolin-3-yl)-cyclopropyl-methanone
The title compound was prepared from (2-amino-5-bromo-phenyl)-phenyl-methanone [example A16] and 1-cyclopropyl-1,3-butanedione according to the procedure of example 1, except that the solvent was isopropanol, the reaction time was of 16 h and heptane/ethyl acetate (1:2) was used. Yield: 75%; MS: m/z=366 (M).

reactant | (2-amino-5-bromo-phenyl)-phenyl-methanone | NC1=C(C=C(C=C1)Br)C(=O)C1=CC=CC=C1 | C13H10BrNO
reactant | 1-cyclopropyl-1,3-butanedione | C1(CC1)C(CC(C)=O)=O | C7H10O2
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
product | (6-Bromo-2-methyl-4-phenyl-quinolin-3-yl)-cyclopropyl-methanone | Yield: 75% | BrC=1C=C2C(=C(C(=NC2=CC1)C)C(=O)C1CC1)C1=CC=CC=C1 | C20H16BrNO
